### PR TITLE
Bolzano weierstrass

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/sequences.v [hunk 1]
```diff
@@ -2671,6 +2672,163 @@ apply: nondecreasing_cvgn_le; last exact: is_cvg_geometric_series.
 by apply: nondecreasing_series => ? _ /=; rewrite pmulr_lge0 // exprn_gt0.
 Qed.
 
+Definition adherence_value {R : numDomainType} (u_ : R^nat) (a : R) :=
```
Comment (CohenCyril) [inline theories/sequences.v]: Unless I am mistaken we must have : `adherence_value u_ = cluster (u_ @ \oo))` thus making the definition `adherence_value` useless as a definition, but we should have its statement as an equivalence lemma to bridge with this particular case.

Comment (affeldt-aist) [reply theories/sequences.v]: This change has been integrated to PR https://github.com/math-comp/analysis/pull/1780 that introduced the notion.

**Comment by affeldt-aist** [comment]
At least, PR https://github.com/math-comp/analysis/pull/1809 shows that this lemma is usable.

File: theories/sequences.v [hunk 2]
```diff
@@ -2973,63 +2973,47 @@ Qed.
...
-  apply: contraPP; rewrite -[~ _]/((~` (_ `\` _)) m) setCD => -[|Bm].
-  + have /iff_not2[+ _] := Ak m.
-    move=> /[apply]; rewrite /v_; case: ifPn => mB; rewrite memNset//.
-    by move: mB Bk => /set_mem /BuN -> /BuN /nesym.
-  + have /iff_not2[+ _] := BuN k.
-    by move=> /(_ Bk); apply: contra_not; rewrite ((BuN m).1 Bm).
-Qed.
-
-Lemma finite_range_cvg (x_ : R ^nat) : finite_set (range x_) ->
+Lemma finite_range_cst {T} (u_ : T^nat) : finite_set (range u_) ->
```
Comment (CohenCyril) [inline theories/sequences.v]: probably the name should be `finite_range_cst_subsequence` or something like this.

File: theories/sequences.v [hunk 3]
```diff
@@ -2973,63 +2973,47 @@ Qed.
...
+
+Lemma infinite_increasing_seq_wf {d} {T : orderType d} (A : set T) :
+  (forall x : T, finite_set [set y | (y <= x)%O]) -> infinite_set A ->
+  forall x0 : T, exists f, [/\ increasing_seq f, forall n : nat, (x0 < f n)%O & forall n, A (f n)].
+Proof.
+move=> Dfin Aoo; apply: infinite_increasing_seq => x; apply: infinite_setI => //.
+by apply: sub_finite_set (Dfin x) => y /=; case: leP.
+Qed.
+
+Lemma finite_range_cvg {T : ptopologicalType} (x_ : T ^nat) :
```
Comment (CohenCyril) [inline theories/sequences.v]: same `...cvg_subsequence` or something like this
